Name:  ___                        Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Squamous cell carcinoma of esophagus
 
Major Surgical or Invasive Procedure:
___: LAPAROSCOPIC ESOPHAGECTOMY & J-TUBE PLACEMENT

 
History of Present Illness:
Squamous cell carcinoma of the esophagus, surgical discussion 
after completion of neoadjuvant chemoradiation

History of present illness: Mr. ___ is a ___ ___ 
speaking man with a medical history notable for hypertension, 
hyperlipidemia and peptic ulcer disease who was previously seen 
in general surgery clinic in late ___ for evaluation of a newly 
diagnosed T3NxM0 esophageal squamous cell carcinoma.  He now 
presents today for ongoing discussion of possible esophagectomy 
after having recently completed neoadjuvant chemoradiation 
(carboplatin/taxol) on ___. 

Mr. ___ reports that since initiating treatment for his 
esophageal cancer he has had ongoing chest wall pain which is 
constant but tolerable with oxycodone.  He otherwise reports 
that his symptoms of odynophagia and dysphagia have improved 
since completing his course of treatment.  He states that while 
formerly he was unable to tolerate solids or liquids, he is now 
able to stay appropriately nourished and is no longer losing 
weight, although he has been unable to regain the ___ pounds 
he lost with his initial illness.  He states that his energy 
level remains good, and that he is able to perform his 
activities of daily living without significant impairment.

He underwent repeat PET/CT imaging on ___ after 
completing his treatment which demonstrated an interval decrease 
in the previously noted circumferential wall thickening seen 
within his distal esophagus previously, with decreased FDG 
uptake, currently with an SUV max of 8.5 from 17.9.  There were 
several newly seen mildly FDG positive mediastinal and hilar 
lymph nodes noted bilaterally, which were not noted to be 
pathologically enlarged, and thought to be reactive.  In light 
of this good response to treatment, Mr. ___ resents today for 
discussion of medical management of his esophageal cancer.

Review of systems is positive as outlined above.  He otherwise 
denies any nausea, vomiting, fevers, chills, cough, anorexia, 
diarrhea, dysuria, bony pains, headaches, changes in his vision, 
worsening fatigue, skin changes, or changes in his bowel or 
bladder habits.

Since last being seen in clinic, Mr. ___ denies any interval
changes in his medical, surgical, family, or social histories.
 
Past Medical History:
Hypertension
Hyperlipidemia
Possible PUD 
 
Social History:
___
Family History:
Mother: lung or liver cancer
Father: HTN, DM, HLD
Sister: HTN
 
Physical ___:
VS: T 97.8 BP 123 76 P 78 RR ___ 
Gen: no acute distress, alert and oriented x 3, neck incision 
with steri-strips, CDI
Cardiac: regular rate and rhythm, no murmurs appreciated
Resp: clear to auscultation, bilaterally; no respiratory 
distress
Abdomen: soft, non-distended, appropriately tender to palpation 
without  rebound tenderness or guarding; prior chest tube 
insertion site with primary dressing, CDI; J-tube insertion site 
CDI without peritubal erythema or drainage; abdominal lap sites 
with dermabond, CDI, no periwound erythema
Ext: no lower extremity edema, bilaterally
 
Pertinent Results:
IMAGING:
___ 04:56PM BLOOD WBC-12.7* RBC-3.85* Hgb-11.3* Hct-35.2* 
MCV-91 MCH-29.4 MCHC-32.1 RDW-14.8 RDWSD-49.7* Plt ___
___ 09:18AM BLOOD Glucose-136* Lactate-1.0 Na-141 K-4.1 
Cl-110*
___ 01:47PM BLOOD Glucose-165* Lactate-2.0 Na-140 K-4.6 
Cl-110*
___ 09:18AM BLOOD Type-ART pO2-74* pCO2-50* pH-7.32* 
calTCO2-27 Base XS-0
___ 09:18AM BLOOD Hgb-10.9* calcHCT-33 O2 Sat-92
___ 01:47PM BLOOD Hgb-11.3* calcHCT-34 O2 Sat-99
___ 09:18AM BLOOD freeCa-1.20
___ 01:47PM BLOOD freeCa-1.19
___ 04:04AM BLOOD WBC-6.2 RBC-3.47* Hgb-10.0* Hct-32.3* 
MCV-93 MCH-28.8 MCHC-31.0* RDW-14.9 RDWSD-50.9* Plt ___

UGI SGL W/O KUB:
No evidence of leak. 
Delayed passage of contrast at the anastomosis, possibly related 
to edema. 

 
Brief Hospital Course:
Mr. ___ is a ___ with esophageal cancer who underwent a minimally 
invasive McKweon esophagogastrectomy with J-tube placement on 
___. There were no adverse events in the operating 
room; please see the operative note for details. 
Post-operatively the patient was taken to the TSICU for 
monitoring through POD2 and then transferred to the floor when 
stable.
 
 #SURGICAL COURSE: 
 #NEURO: The patient was alert and oriented throughout 
hospitalization; pain was initially managed with IV Tylenol, IV 
Dilaudid and then transitioned to liquid oxycodone with 
effective pain management.
 #CV: The patient remained stable from a cardiovascular 
standpoint; vital signs were routinely monitored.  
 #PULMONARY: The patient remained stable from a pulmonary 
standpoint; vital signs were routinely monitored. A chest tube 
was placed intra-op and was noted to have low, steady output.  
Daily chest xrays were obtained; the chest tube was removed on 
POD8. Good pulmonary toilet, early ambulation and incentive 
spirometry were encouraged throughout hospitalization and the 
patient was weaned entirely from supplemental oxygen.  
 #GI/GU/FEN: The patient had a foley placed intra-operatively, 
which was removed post-surgery on with autonomous return of 
voiding. Nutrition was consulted and tube feeds were started via 
the J-tube.  He received Osmolite 1.5, which was ultimately 
cycled nocturnally once the patient was tolerating a full liquid 
diet. The patient tolerated both full liquids and enteral 
nutrition. He will continue enteral nutrition supplementation 
upon discharge given his inability to progress past full 
liquids; teaching was performed with the presence of an 
interpreter.
 #ID: The patient's fever curves were closely watched for signs 
of infection, of which there were none.  
 #HEME: Patient received BID SQH for DVT prophylaxis, in 
addition to encouraging early ambulation and Venodyne 
compression devices.  
#REHAB: The patient was evaluated by physical therapy who felt 
that the patient was appropriate for discharge to home with 
additional ___ visits at home; please see page 3 for detailed 
recommendations.
  At the time of discharge, the patient was doing well, afebrile 
with stable vital signs. The patient was tolerating diet as 
above per oral, ambulating, voiding without assistance, and pain 
was well controlled. The patient was discharged home with 
services (enteral nutrition, tube care teaching and physical 
therapy). The patient received discharge teaching and follow-up 
instructions with understanding verbalized and agreement with 
the discharge plan.  

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atorvastatin 20 mg PO QPM 
2. Polyethylene Glycol 17 g PO DAILY:PRN Constipation - Second 
Line 
3. Acetaminophen ___ mg PO Q6H:PRN Pain - Mild/Fever 
4. Docusate Sodium 100 mg PO BID 
5. Omeprazole 20 mg PO DAILY 
6. Senna 8.6 mg PO BID:PRN Constipation - First Line 

 
Discharge Medications:
1.  GuaiFENesin ___ mL PO Q6H:PRN cough  
2.  OxycoDONE Liquid 5 mg PO Q4H:PRN Pain - Moderate 
RX *oxycodone 5 mg/5 mL 5 ml by mouth pain Disp ___ Milliliter 
Refills:*0 
3.  Acetaminophen ___ mg PO Q6H:PRN Pain - Mild/Fever 
RX *acetaminophen 650 mg/20.3 mL 20 ml po every six (6) hours 
Disp #*300 Milliliter Refills:*0 
4.  Atorvastatin 20 mg PO QPM  
5.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium 50 mg/5 mL 10 ml by mouth twice a day Disp 
#*300 Milliliter Refills:*0 
6.  Omeprazole 20 mg PO DAILY 
please open capsule, sprinkle contents onto sugar free 
applesauce, swallow whole.  
7.  Polyethylene Glycol 17 g PO DAILY:PRN Constipation - Second 
Line  
8.  Senna 8.6 mg PO BID:PRN Constipation - First Line 
please crush  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Squamous Cell Carcinoma of Esophagus

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, 
It was a pleasure taking care of you here at ___ 
___. You were admitted to our hospital for 
a laparoscopic esophagogastrectomy on ___. You tolerated the 
procedure well and are ambulating, stooling, tolerating a 
regular diet, and your pain is controlled by pain medications by 
mouth. You are now ready to be discharged to home. Please follow 
the recommendations below to ensure a speedy and uneventful 
recovery.  

 ACTIVITY:  
 - Do not drive until you have stopped taking pain medicine and 
feel you could respond in an emergency.  
 - You may climb stairs. You should continue to walk several 
times a day.  
 - You may go outside, but avoid traveling long distances until 
you see your surgeon at your next visit.  
 - You may start some light exercise when you feel comfortable. 
Slowly increase your activity back to your baseline as 
tolerated.  
 - Heavy exercise may be started after 6 weeks, but use common 
sense and go slowly at first.  
 - No heavy lifting (10 pounds or more) until cleared by your 
surgeon, usually about 6 weeks.  
 - You may resume sexual activity unless your doctor has told 
you otherwise.  

 HOW YOU MAY FEEL:  
 - You may feel weak or "washed out" for 6 weeks. You might want 
to nap often. Simple tasks may exhaust you.  
 - You may have a sore throat because of a tube that was in your 
throat during the surgery.  

 YOUR BOWELS:  
 - Constipation is a common side effect of narcotic pain 
medicine such as oxycodone. If needed, you may take a stool 
softener (such as Colace, liquid) or gentle laxative (such as 
milk of magnesia, 1 tbs) twice a day. You can get both of these 
medicines without a prescription.  
 - If you go 48 hours without a bowel movement, or have pain 
moving the bowels, call your surgeon.  
 - After some operations, diarrhea can occur. If you get 
diarrhea, don't take anti-diarrhea medicines. Drink plenty of 
fluids and see if it goes away. If it does not go away, or is 
severe and you feel ill, please call your surgeon.  

 PAIN MANAGEMENT:  
 - You are being discharged with a prescription for liquid 
oxycodone for pain control. You may take liquid Tylenol as 
directed, not to exceed 3000mg in 24 hours. Take regularly for a 
few days after surgery but you may skip a dose or increase time 
between doses if you are not having pain until you no longer 
need it. You may take the oxycodone for moderate and severe pain 
not controlled by the Tylenol. You may take a stool softener 
while on narcotics to help prevent the constipation that they 
may cause. Slowly wean off these medications as tolerated.  
 - Your pain should get better day by day. If you find the pain 
is getting worse instead of better, please contact your surgeon. 
 
 If you experience any of the following, please contact your 
surgeon:  
 - sharp pain or any severe pain that lasts several hours  
 - chest pain, pressure, squeezing, or tightness  
 - cough, shortness of breath, wheezing  
 - pain that is getting worse over time or pain with fever  
 - shaking chills, fever of more than 101  
 - a drastic change in nature or quality of your pain  
 - nausea and vomiting, inability to tolerate fluids, food, or 
your medications  
 - if you are getting dehydrated (dry mouth, rapid heart beat, 
feeling dizzy or faint especially while standing)  
 -any change in your symptoms or any symptoms that concern you  
 Additional:  
 *- pain that is getting worse over time, or going to your chest 
or back  
 *- urinary: burning or blood in your urine or the inability to 
urinate  

 MEDICATIONS:  
 - Take all the medicines you were on before the operation just 
as you did before, unless you have been told differently.  
Please follow the instructions on your medication list for 
opening or crushing medications that are not in liquid form.
 - If you have any questions about what medicine to take or not 
to take, please call your surgeon.  

 WOUND CARE:  
 -Dressing Removal:***  
 -You may shower with any bandage strips that may be covering 
your wound. Do not scrub and do not soak or swim, and pat the 
incision dry. If you have steri strips, they will fall off by 
themselves in ___ weeks. If any are still on in two weeks and 
the edges are curling up, you may carefully peel them off.  
 *** Your staples will be removed by your surgeon at your follow 
up appointment.  
 -Do not take baths, soak, or swim for 6 weeks after surgery 
unless told otherwise by your surgical team.  
 -Notify your surgeon if you notice abnormal (foul smelling, 
bloody, pus, etc) or increased drainage from your incision site, 
opening of your incision, or increased pain or bruising. Watch 
for signs of infection such as redness, streaking of your skin, 
swelling, increased pain, or increased drainage.  

 Please call with any questions or concerns. Thank you for 
allowing us to participate in your care. We hope you have a 
quick return to your usual life and activities.  
 -- Your ___ Care Team  
 
Followup Instructions:
___